US07915424B2
N-[5-(5-Cyanopyridin-3-ylethynyl)-2-fluorobenzyl]-methanesulfonamide
Dissolve zinc (II) bromide (94 mg, 0.36 mmol) in tetrahydrofuran (0.75 mL) and treat with triethylamine (0.20 mL, 1.4 mmol). After 4 min add 5-bromonicotinonitrile (55 mg, 0.30 mmol), N-(2-fluoro-5-trimethylsilanylethynylbenzyl) -methanesulfonamide, (prepared as described in PREPARATION 34), (100 mg, 0.33 mmol) and tetrakis(triphenylphosphine)palladium (0) (17 mg, 0.015 mmol) to the reddish solution. Heat to 60° C. and add a 1 M solution of tetrabutylammonium fluoride (0.36 mL) in tetrahydrofuran. After 1 h add additional 1 M tetrabutylammonium fluoride (0.3 mL) in tetrahydrofuran and stir an additional 30 min. Cool to room temperature and filter through diatomaceous earth washing with ethyl acetate. Purify by silica gel chromatography, eluting with a gradient from 60:40 to 40:60 (7:30 hexanes:dichloromethane):ethyl acetate, to give the title compound as a white crystalline solid (50 mg, 50%).

reactant | triethylamine | 1.4 mmol, 0.20 mL | C(C)N(CC)CC | C6H15N
reactant | 5-bromonicotinonitrile | 0.30 mmol, 55 mg | BrC=1C=NC=C(C#N)C1 | C6H3BrN2
reactant | N-(2-fluoro-5-trimethylsilanylethynylbenzyl) -methanesulfonamide | 0.33 mmol, 100 mg | FC1=C(CNS(=O)(=O)C)C=C(C=C1)C#C[Si](C)(C)C | C13H18FNO2SSi
reactant | tetrabutylammonium fluoride | 0.36 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrabutylammonium fluoride | 1 M, 0.3 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 0.75 mL | O1CCCC1 | C4H8O
catalyst | zinc (II) bromide | 0.36 mmol, 94 mg | [Br-].[Zn+2].[Br-]
catalyst | tetrakis(triphenylphosphine)palladium | 0.015 mmol, 17 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[5-(5-Cyanopyridin-3-ylethynyl)-2-fluorobenzyl]-methanesulfonamide | 50 mg, 50% | C(#N)C=1C=C(C=NC1)C#CC=1C=CC(=C(CNS(=O)(=O)C)C1)F | C16H12FN3O2S
